US09260425B2
To a mixture of 3-(6-fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine (200 mg, 0.5 mmol) and (R)-piperidin-3-ol (100 mg, 1.0 mmol) in EtOH 5 mL, was added DIPEA 5 mL. The reaction mixture was heated at 120° C. for 15 h, and the reaction was monitored by LCMS. Upon completion of the reaction, the solvent was distilled off and the crude material was purified via flash chromatography, eluting with 5% to 30% heptane/ethyl acetate to afford (R)-1-(6-(5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidin-3-ol as a yellow oil, (163 mg, 65%). ESI MS m/z=502.2 (M+1).

reactant | 3-(6-fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine | 0.5 mmol, 200 mg | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C | C22H24FN5OSi
reactant | (R)-piperidin-3-ol | 1.0 mmol, 100 mg | N1C[C@@H](CCC1)O | C5H11NO
reactant | DIPEA | 5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 5 mL | CCO | C2H6O
product | (R)-1-(6-(5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidin-3-ol | N1=CC(=CC=C1)C=1C=C2C(=CN1)N(N=C2C2=CC=CC(=N2)N2C[C@@H](CCC2)O)COCC[Si](C)(C)C | C27H34N6O2Si
